US04611056
Dicyclohexylcarbodiimide (21 g) was added to a solution of 5-hydroxy-12H-benzo[a]phenothiazine (4.2 g) and N-tert-butyloxycarbonyl glycine (8.4 g) in THF (150 ml) followed by the addition of DMAP (0.2 g). The reaction mixture was stirred for 15 minutes, filtered and the filtrate evaporated to dryness. The residue was dissolved in EtOAc, washed with a solution of NaHCO3, dried and evaporated to dryness. The resulting oily residue was chromatographed on silica gel (5% EtOAc/CH2Cl2) to afford 5-tert-butyloxycarbonylamino acetoxy-12H-benzo[a]phenothiazine. m.p. 175° as an intermediate.

reactant | Dicyclohexylcarbodiimide | 21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-hydroxy-12H-benzo[a]phenothiazine | 4.2 g | OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)C=CC=C2 | C16H11NOS
reactant | N-tert-butyloxycarbonyl glycine | 8.4 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-tert-butyloxycarbonylamino acetoxy-12H-benzo[a]phenothiazine | C(C)(C)(C)OC(=O)NCC(=O)OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)C=CC=C2 | C23H22N2O4S
